US04622327
Preparation of 1-(hydroxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride
0.01 mole (3.22 g) of 1-(benzoyloxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride is boiled in a mixture of 50 ml of a 5% hydrochloric acid solution and 20 ml of ethanol for 2 hours. The mixture is evaporated and the evaporation residue is triturated with ether to yield the aimed compound with a melting point (after recrystallization from ethanol) of 219° to 221° C. (decomp.).

reactant | 1-(benzoyloxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride | 0.01 mole, 3.22 g | Cl.C(C1=CC=CC=C1)(=O)OCC1CN2C1C1=CC(=C(C=C1CC2)OC)OC
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(hydroxymethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride | Yield: 61% | Cl.OCC1CN2C1C1=CC(=C(C=C1CC2)OC)OC | InChI=1S/C14H19NO3.ClH/c1-17-12-5-9-3-4-15-7-10(8-16)14(15)11(9)6-13(12)18-2;/h5-6,10,14,16H,3-4,7-8H2,1-2H3;1H
